US07211601B2
(2S-4EZ)-N-{(2RS)-3-[4-(acetylamino)phenoxy]-2-hydroxypropyl}-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and N-(4-{[(2RS)-3-amino-2-hydroxypropyl]oxy}phenyl)acetamide, the title compound was obtained in 79% purity by HPLC. MS(ESI+): m/z=545.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N-(4-{[(2RS)-3-amino-2-hydroxypropyl]oxy}phenyl)acetamide | NCC(COC1=CC=C(C=C1)NC(C)=O)O | C11H16N2O3
product | (2S-4EZ)-N-{(2RS)-3-[4-(acetylamino)phenoxy]-2-hydroxypropyl}-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C)(=O)NC1=CC=C(OCC(CNC(=O)[C@H]2N(CC(C2)=NOC)C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)O)C=C1 | C30H32N4O6
